US06503903B1
a) (2R)-N,4-Dimethyl-N-[(5-benzyloxy-1-methyl-1H-indol-2-yl)methyl]-2-(hydroxymethyl)-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxamide
According to the procedure of Example 1(a), except substituting 5-benzyloxy-1-methyl-2-(methylaminomethyl)indole (0.42 g, 1.50 mmole) for the 1-methyl-2-(methylaminomethyl)indole, and substituting (2R)-2-(hydroxymethyl)-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxylic acid (0.34 g, 1.37 mmole) for the (2R)-2-[(carbomethoxy)methyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxylic acid, the title compound (0.66 g, 94%) was prepared as an off-white solid: MS (ES) m/e 513 (M+H)+.

reactant | 5-benzyloxy-1-methyl-2-(methylaminomethyl)indole | 1.50 mmole, 0.42 g | C(C1=CC=CC=C1)OC=1C=C2C=C(N(C2=CC1)C)CNC | C18H20N2O
reactant | 1-methyl-2-(methylaminomethyl)indole | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
reactant | (2R)-2-(hydroxymethyl)-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxylic acid | 1.37 mmole, 0.34 g | OC[C@H]1NC2=C(CN(C1=O)C)C=C(C=C2)C(=O)O | C12H14N2O4
reactant | (2R)-2-[(carbomethoxy)methyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxylic acid | C(=O)(OC)C[C@H]1NC2=C(CN(C1=O)C)C=C(C=C2)C(=O)O | C14H16N2O5
product | (2R)-N,4-Dimethyl-N-[(5-benzyloxy-1-methyl-1H-indol-2-yl)methyl]-2-(hydroxymethyl)-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxamide | 0.66 g, 94% | CN(C(=O)C=1C=CC2=C(CN(C([C@H](N2)CO)=O)C)C1)CC=1N(C2=CC=C(C=C2C1)OCC1=CC=CC=C1)C | C30H32N4O4
